US05001125
To a stirred solution of 0.7 parts of sodium in 20 parts of benzenemethanol were added 5.8 parts of 3-chloro-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine. The whole was stirred and heated in an oil bath at 180° C. After standing overnight, water was added and the product was extracted with trichloromethane. The extract was dried, filtered and evaporated. 2,2'-Oxybispropane was added to the residue. The product was filtered off and crystallized from a mixture of 2-propanol and methanol. The product was filtered off and dried, yielding 3.4 parts (47%) of 3-[4-(3-methylphenyl)-1-piperazinyl]-6-(phenylmethoxy)pyridazine: mp. 159.4° C. (compound 267).

reactant | sodium | [Na] | Na
reactant | benzenemethanol | C1(=CC=CC=C1)CO | C7H8O
reactant | 3-chloro-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine | ClC=1N=NC(=CC1)N1CCN(CC1)C1=CC(=CC=C1)C | C15H17ClN4
solvent | water | O | H2O
product | 3-[4-(3-methylphenyl)-1-piperazinyl]-6-(phenylmethoxy)pyridazine | 47% | CC=1C=C(C=CC1)N1CCN(CC1)C=1N=NC(=CC1)OCC1=CC=CC=C1 | C22H24N4O
